US05364871
Bromine (9.9 ml) was added dropwise to a mixture of 2-acetyl-6-(acetylaminometyl)pyridine (37.0 g) in dioxane (740 ml) and 4N-dioxanic hydrogen chloride (48.1 ml) at ambient temperature with stirring. After the mixture was stirred at 50° C. for 3 hours. To the mixture was added a diisopropyl ether (600 ml) and the mixture was stirred under ice-cooling for 30 minutes. The isolated precipitate was collected by filtration. The precipitate was added to water and the mixture was adjusted to pH 8 with 20% aqueous potassium carbonate. The aqueous mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was dried over magnesium sulfate and evaporated in vacuo to give 2-(acetylaminomethyl)-6-bromoacetylpyridine (50.3 g) as an oil. lR (Film): 1710, 1650 cm-1NMR (CDCl3 δ): 2.11 (3H, s), 4.63 (2H, d, J=5.3 Hz), 4.80 (2H, s), 7.43-7.59 (1H, m), 7.78-8.08 (2H, m)

reactant | Bromine | 9.9 ml | BrBr | Br2
reactant | 2-acetyl-6-(acetylaminometyl)pyridine | 37.0 g | C(C)(=O)C1=NC(=CC=C1)CNC(C)=O | C10H12N2O2
reactant | hydrogen chloride | 48.1 ml | Cl | ClH
reactant | diisopropyl ether | 600 ml | C(C)(C)OC(C)C | C6H14O
solvent | dioxane | 740 ml | O1CCOCC1 | C4H8O2
product | 2-(acetylaminomethyl)-6-bromoacetylpyridine | 50.3 g | C(C)(=O)NCC1=NC(=CC=C1)C(CBr)=O | C10H11BrN2O2
